US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-(6-chloro-pyridin-3-yl)-amine
Was prepared according to Example 3 from N-(6-chloro-pyridin-3-yl)-formamide and 2,6-dichloro-9-methyl-9H-purine.

reactant | N-(6-chloro-pyridin-3-yl)-formamide | ClC1=CC=C(C=N1)NC=O | C6H5ClN2O
reactant | 2,6-dichloro-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
product | (2-Chloro-9-methyl-9H-purin-6-yl)-(6-chloro-pyridin-3-yl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC=1C=NC(=CC1)Cl | C11H8Cl2N6
